US04497817
In 100 ml of ethanol was suspended 7.5 g of 2-imino-3-phenacyl-2,3-dihydrobenzothiazole hydrobromide and after cooling the suspension to 0° C. to 5° C., 1.2 g of sodium borohydride was gradually added to the suspension, and the mixture was stirred for one hour. The reaction mixture was mixed with 5 ml of water and concentrated under reduced pressure. The residue was extracted with toluene and the extract was washed with water, dried with anhydrous magnesium sulfate, and then the solvent was distilled off to provide a tacky residue. The tacky product was dissolved in ethanol and hydrochloric acid-ethanol was added to the solution to provide 6 g of 2-imino-3-(β-hydroxyphenethyl)-2,3-dihydrobenzothiazole hydrochloride. Melting point: 253°-255° C.

reactant | 2-imino-3-phenacyl-2,3-dihydrobenzothiazole hydrobromide | 7.5 g | Br.N=C1SC2=C(N1CC(=O)C1=CC=CC=C1)C=CC=C2
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-imino-3-(β-hydroxyphenethyl)-2,3-dihydrobenzothiazole hydrochloride | 6 g | Cl.N=C1SC2=C(N1CC(C1=CC=CC=C1)O)C=CC=C2 | InChI=1S/C15H14N2OS.ClH/c16-15-17(12-8-4-5-9-14(12)19-15)10-13(18)11-6-2-1-3-7-11;/h1-9,13,16,18H,10H2;1H
